US04611061
Preparation of 2-(2'-Hydroxy-5'-hydroxyethylphenyl)-2H-benzotriazole
In a like manner there are prepared 2-(2'-Hydroxy-5'-hydroxyethylphenyl)-5-chloro-2H-benzotriazole, 2-(2'-Hydroxy-5'-hydroxypropylphenyl)-5-chloro-2H-benzotriazole and 2-(2'-Hydroxy-5'-hydroxypropylphenyl)-2H-benzotriazole from which the corresponding methacrylyloxyalkylphenyl-2H-benzotriazoles are readily prepared in good yield and purity following the general procedures set forth above.

reactant | 2-(2'-Hydroxy-5'-hydroxyethylphenyl)-5-chloro-2H-benzotriazole | OC1=C(C=C(C=C1)CCO)N1N=C2C(=N1)C=CC(=C2)Cl | C14H12ClN3O2
reactant | 2-(2'-Hydroxy-5'-hydroxypropylphenyl)-5-chloro-2H-benzotriazole | OC1=C(C=C(C=C1)CCCO)N1N=C2C(=N1)C=CC(=C2)Cl | C15H14ClN3O2
reactant | 2-(2'-Hydroxy-5'-hydroxypropylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)CCCO)N1N=C2C(=N1)C=CC=C2 | C15H15N3O2
product | 2-(2'-Hydroxy-5'-hydroxyethylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)CCO)N1N=C2C(=N1)C=CC=C2 | C14H13N3O2
